US05977105
(±)-α-(4-(4-Hydroxyphenylmethyl)phenoxymethyl)-3-pyridinepropanol
Prepared according to the method described in Example 5 from bis(4-hydroxyphenyl)methane (1.6 g), (±)-3-(2-oxiranylethyl)pyridine (1.24 g) and sodium hydride (60% dispersion in oil; 0.319 g) in dimethylformamide (25 ml) at 100° C. for 2 hours to give the title compound as a white solid (0.587 g).

reactant | bis(4-hydroxyphenyl)methane | 1.6 g | OC1=CC=C(C=C1)CC1=CC=C(C=C1)O | C13H12O2
reactant | (±)-3-(2-oxiranylethyl)pyridine | 1.24 g | O1C(C1)CCC=1C=NC=CC1 | C9H11NO
reactant | sodium hydride | 0.319 g | [H-].[Na+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | (±)-α-(4-(4-Hydroxyphenylmethyl)phenoxymethyl)-3-pyridinepropanol | 0.587 g | OC1=CC=C(C=C1)CC1=CC=C(OCC(CCC=2C=NC=CC2)O)C=C1 | C22H23NO3
